US05705702
A Grignard reagent was conventionally prepared using 60.7 g (2.5 mol) of magnesium, 461 g (2.5 mol) of 4-tert-butoxyphenyl chloride, and 700 g of THF. The Grignard reagent solution was cooled in an ice water bath whereupon 59.5 g (0.5 mol) of thionyl chloride diluted with 100 g of THF was added dropwise at less 30° C. Reaction mixture was ripened for about 30 minutes. Thereafter, 277.8 g (1.25 mol) of trimethylsilyltrifluoromethane sulfonate was added dropwise at less 20° C. Reaction mixture was further ripened for 1 hour and thereafter, the reaction solution was allowed to stand overnight at room temperature. After the reaction solution was again cooled in an ice water bath, 1,800 g of 16.7% ammonium chloride aqueous solution (NH4Cl 300 g+H2O 1,500 g) was added thereto at a temperature not in excess of 30° C. After separation, 1,000 g of chloroform was added to the organic layer, which was washed three times using 1,000 g of water. Thereafter, the solvent was distilled off under reduced pressure by means of a rotary evaporator and the resulting oily residue was recrystallized, isolating tris(4-tert-butoxyphenyl)sulfonium trifluoromethanesulfonate of 99% purity in an amount of 141 g (yield 45%).

reactant | magnesium | 2.5 mol, 60.7 g | [Mg] | Mg
reactant | 4-tert-butoxyphenyl chloride | 2.5 mol, 461 g | C(C)(C)(C)OC1=CC=C(C=C1)Cl | C10H13ClO
reactant | thionyl chloride | 0.5 mol, 59.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | trimethylsilyltrifluoromethane sulfonate | 1.25 mol, 277.8 g | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | ammonium chloride | 1,800 g | [Cl-].[NH4+]
solvent | THF | 100 g | C1CCOC1 | C4H8O
solvent | THF | 700 g | C1CCOC1 | C4H8O
product | tris(4-tert-butoxyphenyl)sulfonium trifluoromethanesulfonate | yield 45% | FC(S(=O)(=O)[O-])(F)F.C(C)(C)(C)OC1=CC=C(C=C1)[S+](C1=CC=C(C=C1)OC(C)(C)C)C1=CC=C(C=C1)OC(C)(C)C | InChI=1S/C30H39O3S.CHF3O3S/c1-28(2,3)31-22-10-16-25(17-11-22)34(26-18-12-23(13-19-26)32-29(4,5)6)27-20-14-24(15-21-27)33-30(7,8)9;2-1(3,4)8(5,6)7/h10-21H,1-9H3;(H,5,6,7)/q+1;/p-1
